US06031121
Synthesis of 2-benzylidene-3-acetoxypropionate methyl ester
The product (108.8 g) in Reference Example 1, namely 3-hydroxy-2-methylene-3-phenylpropionate methyl ester, is dissolved in acetic anhydride (113 ml; 1.20 mol), to which sulfuric acid (0.2 ml) is added, and the resulting mixture is stirred at 100° C. for 4 hours. The reaction solution is concentrated under reduced pressure, to give a crude product of the title compound at a yield of 143.9 g. 1H-NMR analysis reveals that the compound is a mixture of the E form and the Z form at a ratio of 87:13.

reactant | acetic anhydride | 1.20 mol, 113 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-hydroxy-2-methylene-3-phenylpropionate methyl ester | COC(C(C(C1=CC=CC=C1)O)=C)=O | C11H12O3
product | 2-benzylidene-3-acetoxypropionate methyl ester | COC(C(COC(C)=O)=CC1=CC=CC=C1)=O | C13H14O4
